US09079866B2
N-[4′-(5-Aminopyrazin-2-yl)-3′-fluoro-2′-methoxybiphenyl-2-yl]methanesulfonamide
The title compound was prepared by a method analogous to Example 461 using (2-(methylsulfonamido)phenyl)boronic acid and 5-(4-bromo-2-fluoro-3-methoxyphenyl)pyrazin-2-amine. MS (ESI): mass calcd. for C18H17FN4O3S, 388.10; m/z found, 389.1 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.59 (dd, J=2.3, 1.6, 1H), 8.12 (d, J=1.5, 1H), 7.75 (dd, J=8.2, 7.2, 1H), 7.69 (d, J=8.0, 1H), 7.46 (m, 1H), 7.37-7.32 (m, 2H), 7.15 (dd, J=8.2, 1.5, 1H), 7.10 (s, 1H), 4.77 (s, 2H), 3.73 (d, J=1.1, 3H), 2.58 (s, 3H).

reactant | (2-(methylsulfonamido)phenyl)boronic acid | CS(=O)(=O)NC1=C(C=CC=C1)B(O)O | C7H10BNO4S
reactant | 5-(4-bromo-2-fluoro-3-methoxyphenyl)pyrazin-2-amine | BrC1=C(C(=C(C=C1)C=1N=CC(=NC1)N)F)OC | C11H9BrFN3O
product | N-[4′-(5-Aminopyrazin-2-yl)-3′-fluoro-2′-methoxybiphenyl-2-yl]methanesulfonamide | NC=1N=CC(=NC1)C1=C(C(=C(C=C1)C1=C(C=CC=C1)NS(=O)(=O)C)OC)F | C18H17FN4O3S
